US07282512B2
To 3.00 g (42.80 mmol) of cyclobutanone in 143 mL of tetrahydrofuran at 0° C. was added 51.36 mL (51.36 mmol) of a 1 M solution of benzyl magnesium chloride in diethyl ether and the mixture was allowed to warm to RT and stirred for 20 h. The reaction was quenched with methanol, followed by water. The mixture was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride. The organic layer was dried over magnesium sulfate, filtered, and concentrated to give 6.52 g (94%) of 1-benzylcyclobutanol. Then, 1.90 g (11.69 mmol) of the compound was dissolved in 12 mL of toluene and 2.00 g (11.69 mmol) of methyl(2S)-2-isocyanatohexanoate was added. The mixture was heated at 85° C. for 3 d. The solution was concentrated and the residue was purified by silica gel column chromatography eluting with an ethyl acetate:hexanes solution (1:6) to give 2.44 g (63%) of methyl (2S)-2-({[(1-benzylcyclobutyl)oxy]carbonyl}amino)hexanoate. Rf=0.30 (1:4 ethyl acetate:hexanes); 1H NMR (300 MHz, DMSO-d6) δ 7.48 (d, J=8 Hz, 1H), 7.29-7.13 (m, 5H), 4.02-3.94 (m, 1H), 3.64 (s, 3H), 3.16 (ABq, JAB=16 Hz, Δ84 AB=12 Hz, 2H), 2.22-2.02 (m, 4H), 1.82-1.44 (m, 4H), 1.36-1.18 (m, 4H), 0.86 (t, J=7 Hz, 3H).

reactant | cyclobutanone | 42.80 mmol, 3.00 g | C1(CCC1)=O | C4H6O
reactant | benzyl magnesium chloride | C(C1=CC=CC=C1)[Mg]Cl
solvent | tetrahydrofuran | 143 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-benzylcyclobutanol | 6.52 g, 94% | C(C1=CC=CC=C1)C1(CCC1)O | C11H14O
